* Z:\mnt\design.r\spice\examples\3870-1.asc
V1 IN 0 12
M§Q1 IN N004 N006 N006 RJK0305DPB
M§Q2 N006 N008 0 0 RJK0301DPB
L1 N007 OUT0 .56µ
C3 N013 OUT0 .22µ
R1 N007 N013 1.58K
C4 N014 0 2200p
C5 OUT1 0 530µ X2
R2 OUT1 0 .0825
R3 N016 N020 10K
R4 0 N016 15.8k
R6 N021 N022 4.99K
R9 N017 N020 30.1K
R10 0 N017 3.57K
C6 N015 0 4700p
M§Q3 IN N005 N007 N007 RJK0305DPB
M§Q4 N007 N011 0 0 RJK0301DPB
L2 N006 OUT1 1µ
C7 N003 N007 .1µ
D2 N002 N003 CMDSH2-3
C8 N012 OUT1 .22µ
R11 N006 N012 2K
C9 OUT0 0 530µ X2
R12 OUT0 0 .045
R13 N022 N019 10K
C10 N020 0 1µ
C11 N022 0 1µ
XU1 OUT0 0 N012 OUT1 N015 N013 OUT0 N021 NC_01 MP_02 MP_03 MP_04 MP_05 N019 N018 MP_06 N017 NC_07 N016 MP_08 MP_09 N020 MP_10 MP_11 N022 N014 OUT1 MP_12 MP_13 N009 N002 MP_14 N002 MP_15 IN MP_16 N002 N010 MP_17 MP_18 0 LTC3887-1
C12 0 N002 1µ
XU2 MP_19 MP_20 N005 N007 N011 0 N010 N002 N002 N003 LTC4449
C1 N001 N006 .1µ
D1 N002 N001 CMDSH2-3
XU3 MP_21 MP_22 N004 N006 N008 0 N009 N002 N002 N001 LTC4449
XU4 0 N035 OUT0 N019 N018 OUT1 N034 0 N014 N036 N023 N021 0 N031 MP_23 N023 MP_24 NC_25 N023 IN MP_26 N023 MP_27 N032 N018 N019 MP_28 N015 0 LTC3870-1
C2 N023 0 1µ
R7 N018 N022 10K
L3 N029 OUT0 .56µ
C13 N035 OUT0 .22µ
R5 N029 N035 1.58K
M§Q5 IN N027 N029 N029 RJK0305DPB
M§Q6 N029 N033 0 0 RJK0301DPB
C14 N025 N029 .1µ
D3 N023 N025 CMDSH2-3
XU5 MP_29 MP_30 N027 N029 N033 0 N032 N023 N023 N025 LTC4449
R8 N036 0 100K
M§Q7 IN N026 N028 N028 RJK0305DPB
M§Q8 N028 N030 0 0 RJK0301DPB
L4 N028 OUT1 1µ
C15 N034 OUT1 .22µ
R14 N028 N034 2K
C16 N024 N028 .1µ
D4 N023 N024 CMDSH2-3
XU6 MP_31 MP_32 N026 N028 N030 0 N031 N023 N023 N024 LTC4449
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.1m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to parameter values during simulation run will not have any effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3887. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      5.5V; value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTC3870-1.sub
.lib LTC3887-1.sub
.lib LTC4449.sub
.backanno
.end
